US07323475B2
f) 2-{[7-(3,4-Difluoro-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid
Prepared in analogy to Example A-50 by reacting 7-(3,4-Difluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (compound of Example A-62 a) with L-alanine in a pressure tube for 3 days at 85° C. MS-(+)-ion: M−1=389.2.

reactant | 7-(3,4-Difluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC(=C(C=C1)F)F | C20H17F2NO4
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | 2-{[7-(3,4-Difluoro-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | FC=1C=C(OC2=CC=C3C(=C(N=CC3=C2)C(=O)NC(C(=O)O)C)O)C=CC1F | C19H14F2N2O5
